US05942515
Preparation of ethyl 8-cyclopentyl-6,7-dihydro-3-nitro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylate (Compound 21) (first process):
In 12 ml of anhydrous dimethylformamide were dissolved 1.16 g (3.48 mmol) of ethyl 7-chloro-6-(2-chloroethyl)-3-nitropyrazolo[1,5-a]pyrimidine-5-carboxylate, and 2.4 ml (d=0.863, 24.32 mmol) of cyclopentylamine were added to the solution, and the resultant mixture was stirred for 4 hours at room temperature. The reaction mixture was then poured into ice water. Insoluble solids were collected by filtration, washed with water and air-dried to obtain 1.15 g (yield: 95.7%) of the intended product.

reactant | ethyl 7-chloro-6-(2-chloroethyl)-3-nitropyrazolo[1,5-a]pyrimidine-5-carboxylate | 3.48 mmol, 1.16 g | ClC1=C(C(=NC=2N1N=CC2[N+](=O)[O-])C(=O)OCC)CCCl | C11H10Cl2N4O4
reactant | cyclopentylamine | 24.32 mmol, 2.4 ml | C1(CCCC1)N | C5H11N
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | ethyl 8-cyclopentyl-6,7-dihydro-3-nitro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylate | 1.15 g, yield: 95.7% | C1(CCCC1)N1CCC=2C(=NC=3N(C21)N=CC3[N+](=O)[O-])C(=O)OCC | C16H19N5O4
